US09212348B2
25 g (0.19 mol) of t-butylcarbazate was dissolved in 80 mL of acetic acid and 160 mL of water, and 15 g (0.22 mol) of sodium nitrite was added in small portions under cooling with ice. The reaction solution was stirred for 30 minutes under cooling with ice and extracted with 250 ml of diisopropyl ether. The organic layer was washed with 200 mL of saturated aqueous sodium hydrogen carbonate twice and with 100 mL of saturated aqueous sodium chloride once successively, dried over anhydrous sodium sulfate and filtered to give a solution of t-butyl carbonazidate in diethyl ether.

reactant | t-butylcarbazate | 0.19 mol, 25 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
reactant | sodium nitrite | 0.22 mol, 15 g | N(=O)[O-].[Na+]
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
solvent | water | 160 mL | O | H2O
product | t-butyl carbonazidate | C(OC(C)(C)C)(=O)N=[N+]=[N-] | C5H9N3O2
